US08026261B2
1-Cyclopropyl-2-difluoromethyl-5-hydroxy-1H-pyridin-4-one
A mixture of 5-benzyloxy-1-cyclopropyl-2-difluoromethyl-1H-pyridin-4-one (3.0 g, 10.3 mmol) and 10% Pd/C (340 mg) in methanol (60 mL) was subjected to hydrogenation in a Parr apparatus under a 15 psi hydrogen pressure for 22 min. The mixture was diluted with 300 mL of methanol, sonicated for 20 min, and then filtered through a pad of CELITE™ (pre-treated with HCl and washed to neutral with deionized water). The volume of the filtrate was reduced in vacuo until a solid precipitated out. The solid was collected by suction filtration. The recrystallization was repeated on the filtrate to obtain a second crop of solid. The combined solids were dried to constant weight in a vacuum oven thereby affording the title product (1.61 g) in 77% yield. HPLC purity (peak area percent) of product is 99.5% at λ=280 nm using HPLC Method 1 as described above. 1H NMR (400 MHz, DMSO-D6+D2O) δ (ppm): 7.54 (s, 1H), 7.33 (t, J=53.0 Hz, 1H, CF2H), 6.51 (s, 1H), 3.53-3.57 (m, 1H, N—CH), 1.07-1.10 (m, 4H, 2CH2); MS-ESI (m/z): 202.5 [M+1]+, 142.3 (100%); Anal. Calcd. for C9H9F2NO2: C, 53.73; H, 4.51; N, 6.96%. Found: C, 53.75; H, 4.80; N, 6.89%.

reactant | 5-benzyloxy-1-cyclopropyl-2-difluoromethyl-1H-pyridin-4-one | 10.3 mmol, 3.0 g | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C1CC1)C(F)F)=O | C16H15F2NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 60 mL | CO | CH4O
solvent | methanol | 300 mL | CO | CH4O
catalyst | Pd/C | 340 mg | [Pd] | Pd
product | 1-Cyclopropyl-2-difluoromethyl-5-hydroxy-1H-pyridin-4-one | 1.61 g, 77% yield | C1(CC1)N1C(=CC(C(=C1)O)=O)C(F)F | C9H9F2NO2
